US07622583B2
2-[5-Chloro-3-(4-chloro-3-trifluoromethyl-benzenesulfonylamino)-pyridine-2-carbonyl]benzoic acid methyl ester
A mixture of 2-[5-chloro-3-(4-chloro-3-trifluoromethyl-benzenesulfonylamino)-pyridine-2-carbonyl]benzoic acid (20 mg), 4N HCl/dioxane (1 mL) and 1.5 mL of methanol was refluxed overnight. After cooled to room temperature, the mixture was concentrated and the residue was diluted with ethyl acetate, washed with sodium bicarbonate and brine and dried. Removal of the solvents afforded the title compound as an off white solid: 1H NMR: (CDCl3, ppm) δ 11.20 (s, 1 H), 8.22 (m, 2H), 8.04 (m, 2H), 7.94 (m, 1 H), 7.62 (m, 2H), 7.54 (m, 1 H), 7.31 (m, 1 H), 3.54 (s, 3H); MS: (M+H)/z=533.0.

reactant | 2-[5-chloro-3-(4-chloro-3-trifluoromethyl-benzenesulfonylamino)-pyridine-2-carbonyl]benzoic acid | 20 mg | ClC=1C=C(C(=NC1)C(=O)C1=C(C(=O)O)C=CC=C1)NS(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F | C20H11Cl2F3N2O5S
reactant | HCl dioxane | 4N, 1 mL | Cl.O1CCOCC1
solvent | methanol | 1.5 mL | CO | CH4O
product | 2-[5-Chloro-3-(4-chloro-3-trifluoromethyl-benzenesulfonylamino)-pyridine-2-carbonyl]benzoic acid methyl ester | COC(C1=C(C=CC=C1)C(=O)C1=NC=C(C=C1NS(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F)Cl)=O | C21H13Cl2F3N2O5S
